### PR TITLE
[Merged by Bors] - feat(Homotopy/Lifting): monodromy of covering maps and lifting criterion

### PR DESCRIPTION
**Pull request by alreadydone**
Define the monodromy of a covering map: given a path in the base space, lifting it through the covering map induces a bijection between the fibers at the two endpoints of the path. Definition 2.1 in https://ncatlab.org/nlab/show/monodromy.

---

- [x] depends on: #28234
- [x] depends on: #22649

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Topology/Homotopy/Lifting.lean [hunk 1]
```diff
@@ -374,6 +431,37 @@ theorem existsUnique_continuousMap_lifts [SimplyConnectedSpace A] [LocPathConnec
...
+  rw [← Subtype.ext_iff]
+  apply (cov.monodromy_bijective <| .mk (pγ'.map f.continuous).symm).1
+  simp_rw [← monodromy_trans_apply, ← Path.Homotopic.Quotient.mk_trans]
+  conv_rhs => rw [← Path.Homotopic.Quotient.eq.2 (Nonempty.intro <| Path.Homotopy.reflTransSymm _),
+    Path.Homotopic.Quotient.mk_refl, monodromy_refl]
+  rw [Path.map_symm, ← Path.map_trans]
+  set pγγ' : Path a₀ a₀ := pγ.trans pγ'.symm
+  obtain ⟨⟨pΓΓ'⟩, eq⟩ := le ⟨fromPath (.mk pγγ'), rfl⟩
+  rw [← show _ = Path.Homotopic.Quotient.mk (pγγ'.map _) from eq]
+  erw [mapOfEq_apply]
```
Comment (joelriou) [inline Mathlib/Topology/Homotopy/Lifting.lean]: Is there a way to get rid of this `erw`?

**Comment by joelriou** [comment]
Thanks!

bors merge
